US07435828B2
A solution of 3-(2-methylphenyl)-2-[(Z)-isopropylimino]-thiazolidin-4-one (50 mg, 0.200 mmol), 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde (49 mg, 0.300 mmol) and sodium acetate (33 mg, 0.400 mmol) in acetic acid (1 mL) is stirred at 110° C. for 5 h. The reaction mixture is cooled to rt and subjected to prep. HPLC purification. The product containing fractions are evaporated and dried to give 5-(2,3-dihydro-benzo[1,4]dioxin-6-ylmeth-(Z)-ylidene)-2-[(Z)-isopropylimino]-3-o-tolyl-thiazolidin-4-one.

reactant | 3-(2-methylphenyl)-2-[(Z)-isopropylimino]-thiazolidin-4-one | 0.200 mmol, 50 mg | CC1=C(C=CC=C1)N1/C(/SCC1=O)=N/C(C)C | C13H16N2OS
reactant | 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde | 0.300 mmol, 49 mg | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | sodium acetate | 0.400 mmol, 33 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 5-(2,3-dihydro-benzo[1,4]dioxin-6-ylmeth-(Z)-ylidene)-2-[(Z)-isopropylimino]-3-o-tolyl-thiazolidin-4-one | O1CCOC2=C1C=CC(=C2)\C=C/2\C(N(/C(/S2)=N/C(C)C)C2=C(C=CC=C2)C)=O | C22H22N2O3S
